US07750154B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1, which is concerned with the preparation of starting materials, N-ethylpiperazine was reacted with 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-ethylpiperazine-1-yl)-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.67 (m, 2H), 1.02 (t, 3H), 2.30 (s, 3H), 2.37 (m, 2H), 2.48 (m, 4H), 2.83 (m, 1H), 3.49 (m, 4H), 7.06 (m, 2H), 7.28 (d, 1H), 7.56 (d, 1H), 7.96 (s, 1H), 8.04 (d, 1H), 8.35 (d, 1H), 9.91 (s, 1H);

reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
reactant | 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C1)[N+](=O)[O-] | C18H16ClN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-ethylpiperazine-1-yl)-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCN(CC1)CC)[N+](=O)[O-])=O)C | C24H29N5O4
